US09422279B2
Into a 50-mL round-bottom flask, was placed a solution of (2-chloropyridin-3-yl)methanol (500 mg, 3.48 mmol, 1.00 equiv) in a solvent mixture of dioxane and H2O (10/10 mL). (2-Methoxyphenyl)boronic acid (532 mg, 3.50 mmol, 1.20 equiv), sodium bicarbonate (882 mg, 10.50 mmol, 3.00 equiv), and Pd(dppf)Cl2 (286 mg, 0.39 mmol, 0.10 equiv) were added to the reaction mixture. The resulting solution was stirred for 2 h at 100° C., and then it was diluted with 100 mL of H2O. The resulting solution was extracted with 2×100 mL of ethyl acetate, and the combined organic layers were concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:5) as eluent to furnish 650 mg (87%) of [2-(2-methoxyphenyl)pyridin-3-yl]methanol as a yellow solid.

reactant | (2-chloropyridin-3-yl)methanol | 3.48 mmol, 500 mg, 1.00 equiv | ClC1=NC=CC=C1CO | C6H6ClNO
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | (2-Methoxyphenyl)boronic acid | 3.50 mmol, 532 mg, 1.20 equiv | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | sodium bicarbonate | 10.50 mmol, 882 mg, 3.00 equiv | C([O-])(O)=O.[Na+]
solvent | H2O | 100 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.39 mmol, 286 mg, 0.10 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | H2O | 10 mL | O | H2O
product | [2-(2-methoxyphenyl)pyridin-3-yl]methanol | 650 mg, 87% | COC1=C(C=CC=C1)C1=NC=CC=C1CO | C13H13NO2
